US04861885
EXAMPLE 5: Preparation of methyl allylbicyclo[2.2.1]hept-5-ene-2-carboxylate
137 g of methyl acrylate are added dropwise over 30 minutes to a solution of 170 g of allylcyclopentadiene, prepared in accordance with the procedure of Example 1, in 200 ml of ether. The clear solution is boiled under reflux for 2 hours. The ether is distilled off, and the residue is fractionated in vacuo through a column. At a pressure of 20 mm and in the temperature range from 107° to 115° C., 163 g of methyl allylbicyclo[2.2.1]hept-5-ene-2-carboxylate distill in the form of a faintly yellow liquid; nD20 =1.4863.

reactant | methyl acrylate | 137 g | C(C=C)(=O)OC | C4H6O2
reactant | allylcyclopentadiene | 170 g | C(C=C)C1=CC=CC1 | C8H10
reactant | ether | 200 ml | CCOCC | C4H10O
product | methyl allylbicyclo[2.2.1]hept-5-ene-2-carboxylate | C(C=C)C12C(CC(C=C1)C2)C(=O)OC | C12H16O2
